US05491132
To a solution of (2S,3S)-2-[Nα -[N-[N-methyl-N-{2-(N-morpholinocarbonyl-N-methylamino)ethyl}aminocarbonyl]-L-phenylalanyl]-Nα -methyl-L-histidyl]amino-1-cyclohexyl-3-hydroxy-5-methylhexane (210 mg) inethanol (10 ml), which was cooled to 0° C., was added a solution of 4M hydrogen chloride in ethyl acetate (71 μl). After being stirred at the same temperature for 5 minutes, the solution was concentrated under reduced pressure to give (2S,3S)-2-[Nα -[N-[N-methyl-N-{2-(N-morpholinocarbonyl-N-methylamino)ethyl}aminocarbonyl]-L-phenylalanyl]-Nα -methyl-L-histidyl]amino-1-cyclohexyl-3-hydroxy-5-methylhexane hydrochloride (216 mg) as an amorphous powder. Rf: 0.33 (10% methanol in chloroform)

reactant | (2S,3S)-2-[Nα -[N-[N-methyl-N-{2-(N-morpholinocarbonyl-N-methylamino)ethyl}aminocarbonyl]-L-phenylalanyl]-Nα -methyl-L-histidyl]amino-1-cyclohexyl-3-hydroxy-5-methylhexane | 210 mg | CN(C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N([C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC1CCCCC1)[C@H](CC(C)C)O)C)CCN(C)C(=O)N1CCOCC1 | C39H62N8O6
reactant | hydrogen chloride | 4M | Cl | ClH
solvent | ethyl acetate | 71 μl | C(C)(=O)OCC | C4H8O2
product | (2S,3S)-2-[Nα -[N-[N-methyl-N-{2-(N-morpholinocarbonyl-N-methylamino)ethyl}aminocarbonyl]-L-phenylalanyl]-Nα -methyl-L-histidyl]amino-1-cyclohexyl-3-hydroxy-5-methylhexane hydrochloride | 216 mg | Cl.CN(C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N([C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC1CCCCC1)[C@H](CC(C)C)O)C)CCN(C)C(=O)N1CCOCC1 | InChI=1S/C39H62N8O6.ClH/c1-28(2)22-35(48)32(23-29-12-8-6-9-13-29)42-36(49)34(25-31-26-40-27-41-31)46(5)37(50)33(24-30-14-10-7-11-15-30)43-38(51)44(3)16-17-45(4)39(52)47-18-20-53-21-19-47;/h7,10-11,14-15,26-29,32-35,48H,6,8-9,12-13,16-25H2,1-5H3,(H,40,41)(H,42,49)(H,43,51);1H/t32-,33-,34-,35-;/m0./s1
